US06576640B1
Reaction under N2 atmosphere. BF3 in diethylether (215 ml) was cooled to 0° C. 3-Fluoro-phenol (0.25 mol) was added. 6-Chloro-hexanoyl chloride (0.51 mol) added and the resulting reaction mixture was stirred for 15 min at 0° C., then allowed to warm to room temperature. The reaction mixture was then stirred overnight at 130° C. The mixture was cooled room temperature. Water was added while cooling. This mixture was extracted twice with diisopropyl ether. The separated organic layer was dried, filtered and the solvent evaporated. The residue was by column chromatography over silica gel (eluent: CH2Cl2/hexane 50/50), then by HPLC (eluent: CH2Cl2/hexane 50/50). The fractions were collected and the solvent was evaporated, yielding 52.2 g of 6-chloro-1-(4-fluoro-2-hydroxyphenyl)-1-hexanone (interm 17).

reactant | BF3 | B(F)(F)F | BF3
reactant | 3-Fluoro-phenol | 0.25 mol | FC=1C=C(C=CC1)O | C6H5FO
reactant | 6-Chloro-hexanoyl chloride | 0.51 mol | ClCCCCCC(=O)Cl | C6H10Cl2O
reactant | Water | O | H2O
solvent | diethylether | 215 ml | C(C)OCC | C4H10O
product | 6-chloro-1-(4-fluoro-2-hydroxyphenyl)-1-hexanone | 52.2 g | ClCCCCCC(=O)C1=C(C=C(C=C1)F)O | C12H14ClFO2
